US08629137B2
Step 1: 1-benzyl-4-(2-chloro-6-methoxy-quinoline-3-yl)-piperidin-4-ol
Under an argon atmosphere 14.0 mL (28.0 mmol) of a 2 M lithium diisopropylamide solution in 50 mL THF were cooled to −78° C. and combined with stirring with a solution of 5.00 g (25.1 mmol) of 2-chloro-6-methoxy-quinoline in THF. After 1 h stirring at −78° C., 4.5 mL (25.2 mmol) N-benzylpiperidone were added dropwise. After 1 h stirring at −78° C. the mixture was allowed to come up to RT and stirred overnight. The mixture was evaporated down i. vac. and purified by flash chromatography through Alox. The fractions containing the product were combined and evaporated down.

reactant | lithium diisopropylamide | 2 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-chloro-6-methoxy-quinoline | 25.1 mmol, 5.00 g | ClC1=NC2=CC=C(C=C2C=C1)OC | C10H8ClNO
reactant | N-benzylpiperidone | 25.2 mmol, 4.5 mL | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-benzyl-4-(2-chloro-6-methoxy-quinoline-3-yl)-piperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)C=1C(=NC2=CC=C(C=C2C1)OC)Cl | C22H23ClN2O2
